US04357478
Example 3 is repeated, except that octoic acid is added to the nickel and iron solution in a molar ratio of the acid to the metal (nickel+iron) of 0.20. The absorption of hydrogen ceases after 4 hours of reaction and dicyclohexanol propane is obtained quantitatively.

reactant | octoic acid | CCCCCCCC(=O)O | C8H16O2
catalyst | nickel | [Ni] | Ni
catalyst | iron | [Fe] | Fe
catalyst | nickel iron | [Ni].[Fe]
product | dicyclohexanol propane | CCC.C1(CCCCC1)O.C1(CCCCC1)O | InChI=1S/2C6H12O.C3H8/c2*7-6-4-2-1-3-5-6;1-3-2/h2*6-7H,1-5H2;3H2,1-2H3
